US06787652B1
2-[3,5-Dichloro-4-(3-formyl-4-hydroxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione
To a cooled (0° C.), stirred solution of 2-[3,5-dichloro-4-(3-formyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione (0.4 g) in dichloromethane (10 mL) was added 1M boron trichloride in dichloromethane (4 mL). The resulting orange slurry was stirred at ambient temperature for 5 h, ice added and the reaction stirred an additional 1 h. The two phase solution was diluted into ethyl acetate and washed with water, brine, dried (Na2SO4), concentrated in vacuo to afford the title compound of Step B as an off-white solid, 0.4 g (m.p. 146-150° C.).

reactant | 2-[3,5-dichloro-4-(3-formyl-4-methoxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | 0.4 g | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C=O)Cl)N1N=CC(NC1=O)=O | C17H11Cl2N3O5
reactant | boron trichloride | 1M | B(Cl)(Cl)Cl | BCl3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 2-[3,5-Dichloro-4-(3-formyl-4-hydroxy-phenoxy)-phenyl]-2H-[1,2,4]triazine-3,5-dione | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)O)C=O)Cl)N1N=CC(NC1=O)=O | C16H9Cl2N3O5
